US05344845
Using 2.5 g of 4-acetoxy-3-methoxycinnamoyl chloride, 3.7 g of ethyl 4-amino-1-cyclohexanecarboxylate described in the literature [V. Skaric, M. Kovacevic, and D. Skaric, J. Chem. Soc. Perkin I, 1199-1201 (1976)], and 100 ml of pyridine, a reaction similar to that conducted in Example 53 was carried out. As a result, 2.3 g of ethyl 4-(4-acetoxy-3-methoxycinnamamido)-1-cyclohexanecarboxylate (a compound of the present invention) was obtained as pale yellowish white crystal, which had the following physiochemical properties:

reactant | 4-acetoxy-3-methoxycinnamoyl chloride | 2.5 g | C(C)(=O)OC1=C(C=C(C=CC(=O)Cl)C=C1)OC | C12H11ClO4
reactant | ethyl 4-amino-1-cyclohexanecarboxylate | 3.7 g | NC1CCC(CC1)C(=O)OCC | C9H17NO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(4-acetoxy-3-methoxycinnamamido)-1-cyclohexanecarboxylate | 2.3 g | C(C)(=O)OC1=C(C=C(C=CC(=O)NC2CCC(CC2)C(=O)OCC)C=C1)OC | C21H27NO6
